### PR TITLE
feat (Project 14): Most sorries in file _9_

### PR DESCRIPTION
**Pull request by WilliamCoram**
We prove most sorries in file _9_ except Yaël's claimed tasks.

### CODE REVIEW

File: ClassFieldTheory/GroupCohomology/_9_CyclicGroup.lean [hunk 1]
```diff
@@ -41,7 +43,24 @@ noncomputable section
 -/
 abbrev gen : G := IsCyclic.exists_generator.choose
 
-variable {G}
+variable {G} in
+lemma gen_generate (x : G) : x ∈ Subgroup.zpowers (gen G) :=
+  IsCyclic.exists_generator.choose_spec x
```
Comment (kbuzzard) [inline ClassFieldTheory/GroupCohomology/_9_CyclicGroup.lean:48]: Do we need this lemma when we can just use `IsCyclic.exists_generator.choose_spec`?

File: ClassFieldTheory/GroupCohomology/_9_CyclicGroup.lean [hunk 2]
```diff
@@ -77,90 +99,206 @@ lemma map₁_comm (g : G) :
...
-    LinearMap.range (map₂ (R := R) (G := G) (A := A)) = LinearMap.ker ind₁'_π :=
-  sorry
+lemma map₂_range [Fintype G] [DecidableEq G] :
+    LinearMap.range (map₂ (R := R) (G := G) (A := A)) = LinearMap.ker ind₁'_π := by
+  ext w
+  constructor
+  · rintro ⟨y, rfl⟩
+    have := ind₁'_π_comp_map₂ (R := R) (G := G) (A := A)
+    apply_fun (· y) at this
+    exact this
```
Comment (kbuzzard) [inline ClassFieldTheory/GroupCohomology/_9_CyclicGroup.lean:177]: That can surely be golfed to one line? Maybe `exact congr_fun ind₁'_π_comp_map₂ y` or something?
